US04179277
16.7 g (0.11 mol) of carbazic acid phenyl ester were added in portions, at room temperature, to a solution of 25.4 g (0.1 mol) of 4,5-dichloro-2-trichloromethyl-imidazole in 200 ml of dioxane. After the slightly exothermic reaction had subsided, the mixture was gradually warmed to the boil and boiled for a further 2 hours under reflux. It was then cooled to room temperature and 20.2 g (0.2 mol) of triethylamine were added dropwise. The mixture was stirred for a further 2 hours at 50° C., the insoluble constituents were filtered off and the filtrate was evaporated in vacuo. The residue was treated with water and the product was filtered off, washed with water and dried. 21.5 g (72.5% of theory) of 2-(4,5-dichloro-imidazol-2-yl)-5-phenoxy-1,3,4-oxadiazole were obtained. Melting point: 109° C. (from toluene).

reactant | carbazic acid phenyl ester | 0.11 mol, 16.7 g | C1(=CC=CC=C1)OC(NN)=O | C7H8N2O2
reactant | 4,5-dichloro-2-trichloromethyl-imidazole | 0.1 mol, 25.4 g | ClC=1N=C(NC1Cl)C(Cl)(Cl)Cl | C4HCl5N2
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-(4,5-dichloro-imidazol-2-yl)-5-phenoxy-1,3,4-oxadiazole | 21.5 g, 72.5% | ClC=1N=C(NC1Cl)C=1OC(=NN1)OC1=CC=CC=C1 | C11H6Cl2N4O2
